Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, BRBPR
 
Major Surgical or Invasive Procedure:
Colonoscopy
 
History of Present Illness:
___ history of hemorrhoids and GERD presenting with rectal 
bleeding.

Pt with long-standing bloating and post-prandial fullness; rec'd 
EGD in ___ and tx for H. pylori gastritis (colonoscopy at that 
time unremarkable). Subsequently was in USOH until ___. While in ___, c/o abdominal cramping, urgency to 
stool; passed gas with small bloody stool x5 at that time and 
rec'd anoscopy. Found to have hemorrhoids, no intervention. 
Since that time pt has had occasional diarrhea and constipation. 


In early ___ when she c/o recurrence of bleeding mixed c 
dark ___ stool and abdominal pain/cramping. This also 
resolved. 

The patient had been booked to see ___ today, but 
yesterday morning, pt sustained another episode of RLQ abdominal 
cramping ___, gas, bloody stool. Her last bowel movement was 
this morning and did have a small amount of bright red blood 
streaked in it. This brought her to the ED.  

In the ED, initial vital signs were 99.2 70 138/74 16 100%/ra. 
___ stool partially positive heme. Labs notable for a stable 
Hct. She had one episode of a gas-like sensation in her chest 
that resolved with burping. Vitals prior to transfer 98.6 62 
124/74 16 100%/RA.  

On admission to the floor, she is still in mild abdominal 
discomfort. Notably, she states that she has lost 2kg in 1 month 
and has been fatigued. Most recent diarrhea was 8 days ago and 
she denies rectal pain. She denies fevers, chills, diaphoresis, 
N/V, constipation, orthopnea, PND, SOB (at the moment, although 
she has asthma sx not infrequently), ___ edema, light-headedness, 
myalgias, arthralgias, rash, dysuria, frequency/urgency. Her 
knees do ache when she walks on them. 
 
Past Medical History:
Gastritis on upper and lower endoscopy ___ in ___,
Treated for H. Pylori ___ with confirmed negative followup 
test.
Hypertension
Asthma
Chronic joint pains (With Rheum workup negative for RA or SLE)
Hypothyroidism 
GERD
Early menopause s/p ___ years of estrogen supplements
Throat polyps removed in ___ ___
s/p thyroidectomy 
s/p hysterectromy and unilateral oophorectomy ___ in ___
because of polycystic disease
s/p two C-sections
s/p appendectomy in ___
 
Social History:
___
Family History:
No family history of GI cancers. Mother had chronic
constipation and was told she had "colitis" Sister with lung CA,
Brother with lymphoma, Father had heart and renal disease.
 
Physical Exam:
Admission exam:
VS: 98.2 133/70 56 18 100 RA
GENERAL: NAD. Comfortable
Eyes: Anicteric without injection
ENT: MMM. No oral lesions
___: S1, S2 RRR, no MRG, no edema
LUNGS: Speaks in full sentences, no posturing, ctab no r/r/w
ABDOMEN: nabs ND, soft, mild TTP to areas right and left of the 
umbilicus. No guarding
SKIN: Warm. Dry.
NEURO: Alert, appropriate, prompt, moves all 4
RECTAL: External hemmorhoid visualized, internal hemmorhoid
palpated. ___ stool, no blood, no pain 

Discharge exam:
VS: 98.2 97.7 132/80 56 18 98 RA
GENERAL: NAD. Comfortable
Eyes: Anicteric without injection
ENT: MMM. No oral lesions
___: S1, S2 RRR, no MRG, no edema
LUNGS: Speaks in full sentences, no posturing, ctab no r/r/w
ABDOMEN: nabs ND, soft, mild TTP right of the umbilicus. No 
guarding
SKIN: Warm. Dry.
NEURO: Alert, appropriate, prompt, moves all 4
RECTAL: External hemmorhoid visualized, internal hemmorhoid
palpated. ___ stool, no blood, no pain 
 
Pertinent Results:
ADMISSION LABS:
___ 12:00PM BLOOD WBC-6.6 RBC-4.91 Hgb-13.3 Hct-41.2 MCV-84 
MCH-27.0 MCHC-32.2 RDW-14.6 Plt ___
___ 12:00PM BLOOD Neuts-50 Bands-0 Lymphs-44* Monos-6 Eos-0 
Baso-0 ___ Myelos-0
___ 12:00PM BLOOD Hypochr-NORMAL Anisocy-NORMAL Poiklo-1+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL Ovalocy-OCCASIONAL 
Ellipto-OCCASIONAL
___ 12:00PM BLOOD ___ PTT-29.8 ___
___ 12:00PM BLOOD Plt Smr-NORMAL Plt ___
___ 12:00PM BLOOD Glucose-92 UreaN-8 Creat-0.6 Na-142 K-4.1 
Cl-103 HCO3-29 AnGap-14
___ 10:40AM BLOOD Calcium-9.2 Phos-3.5 Mg-2.1
Colonoscopy ___
Findings:
Grade 1 internal hemorrhoids
Possible pneumatosis in the sigmoid colon compatible with 
possible pneumatosis (biopsy)
Normal mucosa in the terminal ileum compatible with normal colon 
does not appear to be consistent with amebiasis (biopsy)
Otherwise normal colonoscopy to cecum and terminal ileum
Procedure date    Tissue received    Report Date   Diagnosed 
by
___. ___

DIAGNOSIS: 

Intestinal mucosal biopsies, two:

 

1.  Terminal ileum (A):

    Small intestinal mucosa with no diagnostic abnormalities 
recognized.

2.  Colon, sigmoid (B):

    Colonic mucosa with occasional compressed cystic spaces 
focally lined by epithelioid macrophages and foreign body-type 
giant cells seen near the muscularis mucosa (see note).

Note:  These findings are consistent with pneumatosis coli in 
the appropriate clinical and endoscopic setting.  A CD68 
immunostain was evaluated and additional levels were examined.

DISCHARGE LABS:
___ 10:40AM BLOOD WBC-5.8 RBC-4.58 Hgb-12.4 Hct-39.1 MCV-86 
MCH-27.1 MCHC-31.7 RDW-14.8 Plt ___
___ 10:40AM BLOOD Plt ___
___ 10:40AM BLOOD Glucose-80 UreaN-9 Creat-0.6 Na-146* 
K-4.3 Cl-108 HCO3-28 AnGap-14
___ 10:40AM BLOOD Amylase-47
___ 10:40AM BLOOD Calcium-9.2 Phos-3.5 Mg-2.1
___ 04:55PM BLOOD Lactate-1.___ h/o hemorrhoids, ___ ___, H.pylori gastritis s/p tx 
___ now p/w BRBPR and found to have pneumatosis coli on 
colonoscopy.
.
ACTIVE ISSUES
# BRBPR: Given hemodynamic status and hematocrit stability, 
bleeding consistent with lower GI source. The patient was due 
for outpatient colonoscopy on ___ as part of chronic bloody 
diarrhea w/u by GI. She received colonoscopy the day after 
admission and was found to have pneumatosis coli. This was 
thought chronic. Her exam was not consistent with serious causes 
of pneumatosis coli and a lactate and amylase were within normal 
limits prior to discharge. She was sent home with close 
gastrointestinal follow-up with Dr. ___ his 
recommendation.  
.  
# Chronic bloody diarrhea: This was being worked up by GI on an 
outpatient basis. While in house, stool cultures, O&P, E. 
histolytica, C. diff, and strongyloides serologies were sent. C. 
diff, O&P, and Campylobacter were negative. The remainder of the 
studies are pending and should be followed up by 
gastroenterology at her next outpatient visit. 
.
INACTIVE ISSUES
# Asthma: well controlled in house.
# Hypothyroid: continued levothyroxine 50.
# HTN: continued HCTZ 12.5/valsartan 80.
# OA: pain free in house.
.
TRANSITIONAL ISSUES
# BLOODY DIARRHEA WORK-UP: Patient has stool cultures, ova & 
parasites, E. histolitica, C. diff, and strongyloides serologies 
pending at time of discharge. These studies were recommended by 
the gastroenterology team and should be followed up on an 
outpatient basis. 
.
# PNEUMATOSIS COLI: The patient should be followed for 
progression of disease and investigation into the etiology of 
pneumatosis. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 12.5 mg PO DAILY 
hold for K < 3.3, sbp < 90 and call ___ 
2. Valsartan 80 mg PO DAILY 
hold if sbp < 100 or K > 5.1 and call ___ 
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. Symbicort *NF* (budesonide-formoterol) 160-4.5 mcg/actuation 
Inhalation BID shortness of breath 
5. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Hydrochlorothiazide 12.5 mg PO DAILY 
hold for K < 3.3, sbp < 90 and call ___ 
2. Levothyroxine Sodium 100 mcg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Symbicort *NF* (budesonide-formoterol) 160-4.5 mcg/actuation 
Inhalation BID shortness of breath 
5. Valsartan 80 mg PO DAILY 
hold if sbp < 100 or K > 5.1 and call ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: pneumatosis intestinalis, internal 
hemorrhoids
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___, 

___ was a pleasure caring for you while you were hospitalized at 
the ___. As you recall, you were admitted 
because of bloody bowel movements. You had a colonoscopy 
performed on ___ which showed a condition called pneumatosis 
coli, which is gas in the wall of your large intestine. This 
could certainly be what has been causing your abdominal pain. It 
is unclear whether your bleeding is secondary to pneumatosis 
coli or internal hemorrhoids, which were also seen. None of your 
medications were changed.
 
Followup Instructions:
___